US06441012B1
A mixture of dimethyl-(3-benzyloxy-4-nitrophenyl)malonate(2.3 g), N-methylpyrrolidinone(15 mL) and a 60% dispersion of sodium hydride in mineral oil(0.31 g) was stirred under an argon atmosphere at 0° C. for 0.5 h. The mixture was treated with iodomethane(0.8 mL) and stirred at ambient temperature for 4 h then treated with water (50 mL). The precipitate was collected and washed with water and hexane to give dimethyl-2-(3-benzyloxy-4-nitrophenyl)-2-methylmalonate(2.19 g). [m/e374(MH+)].

reactant | dimethyl-(3-benzyloxy-4-nitrophenyl)malonate | 2.3 g | COC(C(C(=O)OC)C1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C18H17NO7
reactant | N-methylpyrrolidinone | 15 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 0.8 mL | IC | CH3I
solvent | water | 50 mL | O | H2O
product | dimethyl-2-(3-benzyloxy-4-nitrophenyl)-2-methylmalonate | 2.19 g | COC(C(C(=O)OC)(C)C1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C19H19NO7
